US06699995B1
Methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate
To a mixture of methyl 4-(4-chlorophenyl)-2-oxo-4-oxazoline-5-propionate (823.7 g) and phosphorus oxychloride (1090 mL) was added pyridine (235.5 mL) and the mixture was stirred at 90° C. for 8 h and allowed to stand overnight at room temperature. A solution obtained by diluting the obtained mixture with acetonitrile (2471 mL) was added dropwise to water (8237 mL) at not higher than 35° C. Then water (4119 mL) was added and the precipitated crystals were collected by filtration to give the title compound (805.4 g, yield: 91.7%).

reactant | methyl 4-(4-chlorophenyl)-2-oxo-4-oxazoline-5-propionate | 823.7 g | ClC1=CC=C(C=C1)C=1NC(OC1CCC(=O)OC)=O | C13H12ClNO4
reactant | phosphorus oxychloride | 1090 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 235.5 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 8237 mL | O | H2O
reactant | water | 4119 mL | O | H2O
solvent | acetonitrile | 2471 mL | C(C)#N | C2H3N
product | Methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate | 805.4 g, yield: 91.7% | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
